US08044213B2
To a stirred solution of 2.41 g (7.18 mmole) of 2-chloro-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester, 2.4 mL of acetone and 2.4 mL of water was added 2.34 g (35.63 mmole) of sodium azide. The reaction mixture was heated at 70 degrees for 16 hours and then partitioned between 200 mL of ethyl acetate and 75 mL of water. The aqueous layer was extracted twice with 55 mL of ethyl acetate. The combined ethyl acetate layers were washed with 50 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 2.44 g of 2-azido-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester as a dark amber oil.

reactant | 2-chloro-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 7.18 mmole, 2.41 g | C(C)OC(=O)C1=C(N=C(S1)Cl)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NO2S
reactant | acetone | 2.4 mL | CC(=O)C | C3H6O
reactant | sodium azide | 35.63 mmole, 2.34 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 2.4 mL | O | H2O
product | 2-azido-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 2.44 g | C(C)OC(=O)C1=C(N=C(S1)N=[N+]=[N-])C1=CC=C(C=C1)C(F)(F)F | C13H9F3N4O2S
